US04187373
A mixture of 7.0 g. of benz[b]anthracene and 26 g. of vinylene carbonate is heated at reflux under nitrogen for 20 hours. The excess vinylene carbonate is removed by vacuum distillation (57° C./9 mm.) and the residue is taken up in 25 ml. of methylene chloride and filtered. The filtrate is treated with twice its volume of methanol and then cooled, producing a tan solid and a mother liquor which is saved. This solid is recrystallized from 60 ml. of 1,2-dichloromethane, collected by filtration, washed with methanol and saved. The mother liquor (saved above) is concentrated giving a gummy solid which is recrystallized from a mixture of methylene chloride and methanol giving a gray solid which is combined with the above solid and recrystallized from ethyl acetate with charcoal treatment giving 5,12-dihydro-5,12-ethanobenz[b]anthracene-13,14-diol, cyclic carbonate as colorless rods. A mixture of 1.3 g. of the cyclic carbonate, 1.05 g. of potassium hydroxide, one ml. of water and 15 ml. of ethanol is stirred at 60°-65° C. for 2 hours. The mixture is diluted with 1-2 volumes of water, filtered and the solid is washed with water and dried giving cis-5,12-dihydro-5,12-ethanobenz[b]anthracene-13,14-diol as a colorless solid. To a solution of 2.6 g. of cis-5,12-dihydro-5,12-ethanobenz[b]anthracene-13,14-diol in 400 ml. of glacial acetic acid at 20° C. is added portionwise 4.4 g. of lead tetraacetate. The reaction is stirred for 45 minutes. The weakly purple colored solid is filtered off, washed with glacial acetic acid and finally water and dried leaving 1.0 g. (m.p. 170°-172° C.) of 5,12-dihydro-5,12-benz[b]anthracene dicarboxaldehyde.

reactant | benz[b]anthracene | C1=CC=CC=2C1=CC1=CC3=CC=CC=C3C=C1C2 | C18H12
reactant | vinylene carbonate | C1(OC=CO1)=O | C3H2O3
product | 5,12-dihydro-5,12-ethanobenz[b]anthracene-13,14-diol | C1=CC=CC2=C1C1C3=CC4=CC=CC=C4C=C3C2C(C1O)O | C20H16O2
